US05719164
a) 5-(1-Butyloxy)-2-nitrobenzyl alcohol
5.1 g (30 mmol) of 5-hydroxy-2-nitrobenzyl alcohol were stirred with 2.5 g (18 mmol) of potassium carbonate and 25 ml of N,N-dimethylacetamide at 70°-80° C. for 30 minutes. After cooling to 20° C., 3.9 ml (36 mmol) of 1-butylbromide were added dropwise and the mixture was stirred at 90° C. for 2 hours. After cooling, the reaction mixture was concentrated in vacuo, the residue was treated with water and the pH was brought to 7 with 2N HCl. The oil obtained crystallizes after about 30 minutes; the product was filtered off with suction, washed with water and dried; 6 g, melting point 47°-49° C.

reactant | 5-hydroxy-2-nitrobenzyl alcohol | 30 mmol, 5.1 g | OC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C7H7NO4
reactant | potassium carbonate | 18 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-butylbromide | 36 mmol, 3.9 ml | C(CCC)Br | C4H9Br
solvent | N,N-dimethylacetamide | 25 ml | CN(C(C)=O)C | C4H9NO
product | 5-(1-Butyloxy)-2-nitrobenzyl alcohol | C(CCC)OC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C11H15NO4
